*** SPICE deck for cell NOR1_sim{sch} from library SCL-(4)
*** Created on Sat Oct 19, 2019 15:10:49
*** Last revised on Sat Oct 26, 2019 17:42:04
*** Written on Sat Oct 26, 2019 17:42:10 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT SCL-_4___NOR3_1 FROM CELL NOR3_1{sch}
.SUBCKT SCL-_4___NOR3_1 A B C NOR3
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 NOR3 A gnd gnd NMOS L=0.2U W=0.3U
Mnmos@1 NOR3 B gnd gnd NMOS L=0.2U W=0.3U
Mnmos@2 NOR3 C gnd gnd NMOS L=0.2U W=0.3U
Mpmos@0 net@31 B net@30 vdd PMOS L=0.2U W=1.9U
Mpmos@1 NOR3 C net@31 vdd PMOS L=0.2U W=1.9U
Mpmos@2 net@30 A vdd vdd PMOS L=0.2U W=1.9U
.ENDS SCL-_4___NOR3_1

.global gnd vdd

*** TOP LEVEL CELL: NOR1_sim{sch}
XNOR3_1@0 A gnd gnd NOR3 SCL-_4___NOR3_1

* Spice Code nodes in cell cell 'NOR1_sim{sch}'
vdd vdd 0 DC 3.3,
vin A 0 DC pulse 0 3.3 10n 1333.33ps 1333.33ps 10n,
cload out 0 96fF,
.tran 0 40n,
.measure tpdr
+ TRIG v(A) VAL=1.65 FALL=1
+ TARG v(NOR3) VAL=1.65 RISE=1
.measure tpdf
+ TRIG v(A) VAL=1.65 RISE=1
+ TARG v(NOR3) VAL=1.65 FALL=1
.include scmos18.txt
.END
