*** SPICE deck for cell NOR2_sim{sch} from library SCL-(4)
*** Created on Sat Oct 26, 2019 12:29:52
*** Last revised on Sat Oct 26, 2019 19:53:18
*** Written on Sat Oct 26, 2019 19:53:21 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT SCL-_4___NOR3_4 FROM CELL NOR3_4{sch}
.SUBCKT SCL-_4___NOR3_4 A B C NOR3
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 NOR3 A gnd gnd NMOS L=0.2U W=1.2U
Mnmos@1 NOR3 B gnd gnd NMOS L=0.2U W=1.2U
Mnmos@2 NOR3 C gnd gnd NMOS L=0.2U W=1.2U
Mpmos@0 net@34 B net@33 vdd PMOS L=0.2U W=7.4U
Mpmos@1 NOR3 C net@34 vdd PMOS L=0.2U W=7.4U
Mpmos@2 net@33 A vdd vdd PMOS L=0.2U W=7.4U
.ENDS SCL-_4___NOR3_4

.global gnd vdd

*** TOP LEVEL CELL: NOR2_sim{sch}
XNOR3_4@0 A gnd gnd NOR3 SCL-_4___NOR3_4

* Spice Code nodes in cell cell 'NOR2_sim{sch}'
vdd vdd 0 DC 3.3,
vin A 0 DC pulse 0 3.3 10n 0ps 0ps 10n,
cload out 0 48fF,
.tran 0 40n,
.measure tpdr
+ TRIG v(A) VAL=1.65 FALL=1
+ TARG v(NOR3) VAL=1.65 RISE=1
.measure tpdf
+ TRIG v(A) VAL=1.65 RISE=1
+ TARG v(NOR3) VAL=1.65 FALL=1
.include /Users/Hatem/Desktop/Electric/scmos18.txt
.END
